US04596803
Under cooling with ice, a 0.47N sodium hydroxide-ethanol solution (4.15 ml) was added to an ethanol solution (7.5 ml) of ethyl (2S,3S)-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate (1.04 g), and the mixture was stirred at room temperature for 2.5 hours. After removal of ethanol by distillation under reduced pressure, water was added, and any insoluble matters were removed by filtration. The filtrate was concentrated and dried under reduced pressure to yield 1.00 g of sodium (2S,3S)-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate as a light yellow powder (yield: 97%).

reactant | sodium hydroxide ethanol | 0.47N, 4.15 ml | [OH-].[Na+].C(C)O
reactant | ethyl (2S,3S)-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate | 1.04 g | CC(C[C@@H](C(=O)N1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC)C | C26H39N3O8
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | sodium (2S,3S)-3-[(s)-3-methyl-1-{4-(2,3,4-trimethoxyphenylmethyl)piperazine-1-yl carbonyl}butylcarbamoyl]-oxirane-2-carboxylate | 1.00 g, yield: 97% | CC(C[C@@H](C(=O)N1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)NC(=O)[C@@H]1[C@H](O1)C(=O)[O-])C.[Na+] | InChI=1S/C24H35N3O8.Na/c1-14(2)12-16(25-22(28)20-21(35-20)24(30)31)23(29)27-10-8-26(9-11-27)13-15-6-7-17(32-3)19(34-5)18(15)33-4;/h6-7,14,16,20-21H,8-13H2,1-5H3,(H,25,28)(H,30,31);/q;+1/p-1/t16-,20-,21-;/m0./s1
